US04481198
A solution containing 80 mg of 24-oxocholesterol acetate, 50 mg of NaHCO3, and 40 mg of dibromantin in 3 ml of Shellysolve B was heated to 70° C. under nitrogen for 30 min. The solution was cooled, the precipitate removed by filtration, and solvent was evaporated. The residue was redissolved in 2 ml of xylene and 0.2 ml of s-collidine and refluxed at 145° C. under nitrogen for 90 min. After cooling, the solution was diluted with benzene/ether, washed with 2% HCl and sat. NaCl solution, dried and passed through a short column of Silica Gel (10 g) using ethyl acetate/Shellysolve B (25:75) as eluent, to obtain after evaporation of solvent, a residue which contains the desired 5,7-diene as well as 4,6-diene material. This mixture was treated with p-toluenesulfonic acid (about 15 mg) in about 10 ml of dry dioxane, under N2, at 70°-75° C., for ca. 2 hr. After cooling, the mixture was diluted with ether, washed with H2O, and saturated NaHCO3 solution, dried (Na2SO4) and solvent was evaporated. After purification of the residue by preparative TLC (Silica gel, ethyl acetate/Shellysolve B, 10:90) there was obtained the desired 5,7-diene (3β-acetoxy-5,7-cholestadien-24-one).

reactant | 24-oxocholesterol acetate | 80 mg | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C29H46O3
reactant | NaHCO3 | 50 mg | C(=O)(O)[O-].[Na+]
reactant | dibromantin | 40 mg | CC1(C(=O)N(C(=O)N1Br)Br)C | C5H6Br2N2O2
product | 5,7-diene | C(C)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C29H44O3
